US04425333
(2S)-N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]phenylalanine
To the solution of 3.55 g of (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid dissolved in 60l ml of THF 1.0 g of N-methylmorpholine is added. To the reaction mixture 1.4 g of isobutyl chlorocarbonate is added at a temperature of -15° to -10° C. The suspension obtained by stirring it for 1 hour is added to 60 ml of the aqueous solution of 3.38 g of L-phenylalanine and 2.0 g of triethylamine with stirring under ice-cooling. After stirring it under ice-cooling for 10 minutes and at room temperature for an additional 10 minutes, the solution is concentrated in vacuo. The concentrate is washed with two 100-ml portions of ether, acidified with conc. hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give 4.8 g (96%) of the titled compound.

reactant | (2R,4R)-3-(S-acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinecarboxylic acid | 3.55 g | C(C)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)O)C1=C(C=CC=C1)O | C15H17NO5S2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 1.4 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | L-phenylalanine | 3.38 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
solvent | THF | 1.0 g | C1CCOC1 | C4H8O
product | (2S)-N-[(2R,4R)-[3-(S-Acetyl-3-mercaptopropanoyl)-2-(2-hydroxyphenyl)-4-thiazolidinyl]carbonyl]phenylalanine | 4.8 g, 96% | C(C)(=O)SCCC(=O)N1[C@H](SC[C@H]1C(=O)N([C@@H](C)C(=O)O)C1=CC=CC=C1)C1=C(C=CC=C1)O | C24H26N2O6S2
